US04535183
5-Acetoxy-2-n-propoxyanisole (39.9 g, 0.178 M), 1.67 N sodium hydroxide solution (300 ml) and methanol (300 ml) were refluxed with stirring (1 hr). The methanol was then removed, the residue diluted with water and extracted with ether. The aqueous phase was acidified with concentrated hydrochloric acid and extracted with ether. The combined extracts were washed with water, dried (sodium sulphate) and evaporated. The product was then passed through a short pad of florisil eluting with chloroform-methanol (95:5) and the filtrate evaporated to give 3-methoxy-4-n-propoxyphenol as an oil which solidified on standing. After trituration with 40/60 petrol and filtration the product had m.p. 54°-56° C.

reactant | 5-Acetoxy-2-n-propoxyanisole | 0.178 M, 39.9 g | C(C)(=O)OC=1C=CC(=C(C1)OC)OCCC | C12H16O4
reactant | sodium hydroxide | 1.67 N, 300 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 3-methoxy-4-n-propoxyphenol | COC=1C=C(C=CC1OCCC)O | C10H14O3
